US06248757B1
4.3. 8-Amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid hydrazide
38.4 g (0.149 mol) of ethyl 8-amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylate suspended in 150 ml of ethanol are introduced into a 1 l reactor, 149 g (2.98 mol) of hydrazine hydrate are added, over 15 min, and the mixture is refluxed for 1 h.

reactant | ethyl 8-amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylate | 0.149 mol, 38.4 g | NC1=C(C=C(C2=C1OCCO2)C(=O)OCC)Cl | C11H12ClNO4
reactant | hydrazine hydrate | 2.98 mol, 149 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-Amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid hydrazide | NC1=C(C=C(C2=C1OCCO2)C(=O)NN)Cl | C9H10ClN3O3
